US03983253
A mixture of 71.8 g (0.30 mole) of ethyl β-(p-methoxyphenyl)-β-hydroxy-α-methylpropionate is refluxed with 41.0 g (0.30 mole) of potassium hydrogen sulfate in 718 ml of benzene for one hour. The insoluble white crystals formed are filtered off, washed with benzene and the solvent of the filtrate is removed on evaporation. This is dissolved in 700 ml of ether. The ether solution is washed with 4 × 100 ml of cold water until neutral followed by 80 ml of saturated sodium chloride solution, then it is dried over magnesium sulfate for 1.5 hours and filtered. The solvent is removed on an evaporator to give ethyl p-methoxy-α-methylcinnamate.

reactant | ethyl β-(p-methoxyphenyl)-β-hydroxy-α-methylpropionate | 0.30 mole, 71.8 g | COC1=CC=C(C=C1)C(C(C(=O)OCC)C)O | C13H18O4
reactant | potassium hydrogen sulfate | 0.30 mole, 41.0 g | S(=O)(=O)(O)[O-].[K+]
solvent | benzene | 718 ml | C1=CC=CC=C1 | C6H6
product | ethyl p-methoxy-α-methylcinnamate | COC1=CC=C(C=C(C(=O)OCC)C)C=C1 | C13H16O3
